US06727264B1
N-{3-[1-((3S)-3-{[(TERT-BUTYLAMINO)CARBOTHIOYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure P and Scheme AB using 2-isothiocyanato-2-methylpropane and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 495.1 (M+H)+.

reactant | 2-isothiocyanato-2-methylpropane | N(=C=S)C(C)(C)C | C5H9NS
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | N-{3-[1-((3S)-3-{[(TERT-BUTYLAMINO)CARBOTHIOYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | C(C)(C)(C)NC(=S)N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C29H42N4OS
